US08012976B2
Ethyl 7-fluoro-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate
A mixture of benzaldehyde (212 mg, 2 mmol) and (E)-6-fluoro-4-((1-methyl-1H-imidazol-2-yl)methyleneamino)isobenzofuran-1(3H)-one (518 mg, 2 mmol) in ethyl propionate (10 mL) was cooled to 0° C. Then a solution of sodium ethoxide in ethanol (sodium (184 mg, 8 mmol) in ethanol (5 mL)) was added dropwise. After the addition, the mixture was stirred at room temperature for 0.5 hr. The mixture was quenched with water (20 mL) and solvent was removed in vacuum. The residue was dissolved in water and extracted with ethyl acetate three times. The combined organic layers were washed by water and brine, and then evaporated to dryness, the crude product was purified by chromatography to obtain a yellow solid. The solid was dried in vacuum at 50° C. to give the title compound (250 mg, yield 32%). LC-MS (ESI) m/z: 394 (M+1)+.

reactant | benzaldehyde | 2 mmol, 212 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | (E)-6-fluoro-4-((1-methyl-1H-imidazol-2-yl)methyleneamino)isobenzofuran-1(3H)-one | 2 mmol, 518 mg | FC1=CC(=C2COC(C2=C1)=O)/N=C/C=1N(C=CN1)C | C13H10FN3O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 8 mmol, 5 mL, 184 mg | C(C)O | C2H6O
solvent | ethyl propionate | 10 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 7-fluoro-2-(1-methyl-1H-imidazol-2-yl)-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 250 mg, yield 32% | FC=1C=C(C=2C(C(C(NC2C1)C=1N(C=CN1)C)C1=CC=CC=C1)=O)C(=O)OCC | C22H20FN3O3
